US07550474B2
d. {6-Cyano-3-[2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethylamino]-2-fluoro-phenyl}-acetic Acid Ethyl Ester
A mixture of 2,2-Difluoro-2-(6-methyl-pyridin-2-yl)-ethylamine (223.6 mg, 1.3 mmol), as prepared in the preceding step, and (6-cyano-2,3-difluoro-phenyl)-acetic acid ethyl ester (225 mg, 1.0 mmol), as prepared in Example 2f, was dissolved in DMSO (1.0 mL) and heated at 150° C. under microwave irradiation for 1 hour. The reaction mixture was partitioned between ethyl acetate and water. The combined EtOAc extracts were dried over Na2SO4 and evaporated. The crude product was purified by flash column chromatography on silica gel (EtOAc/hexanes 2/1, v/v) to afford the product as a white solid (208 mg, 42.5% yield based on the initial amine). 1H NMR (CDCl3) δ 7.71 (t, J=8.02 Hz, 1H), 7.47 (d, J=8.15 Hz, 1H), 7.30 (dd, J=8.61 and 1.28 Hz, 1H), 7.25 (m, 1H), 6.79 (t, J=8.28 Hz, 1H), 4.18 (q, J=7.16 Hz, 2H), 4.12 (t, J=13.21 Hz, 2H), 3.81 (d, J=2.0 Hz, 2H), 2.60 (s, 3H), 1.27 (t, J=7.13 Hz, 3H); LC/MS (m/z) [M+1] 378.3 (calculated for C19H19F3N3O2, 378.1).

reactant | 2,2-Difluoro-2-(6-methyl-pyridin-2-yl)-ethylamine | 1.3 mmol, 223.6 mg | FC(CN)(C1=NC(=CC=C1)C)F | C8H10F2N2
reactant | (6-cyano-2,3-difluoro-phenyl)-acetic acid ethyl ester | 1.0 mmol, 225 mg | C(C)OC(CC1=C(C(=CC=C1C#N)F)F)=O | C11H9F2NO2
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | {6-Cyano-3-[2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethylamino]-2-fluoro-phenyl}-acetic Acid Ethyl Ester | 42.5% yield | C(C)OC(CC1=C(C(=CC=C1C#N)NCC(C1=NC(=CC=C1)C)(F)F)F)=O | C19H18F3N3O2
